US07968538B2
t-Butyl 4-(3-(3,5-dichlorobenzylamino)-4-(methylsulfonyl)phenyl)piperazine-1-carboxylate
A mixture of N-(3,5-dichlorobenzyl)-5-fluoro-2-(methylsulfonyl)benzenamine (2.1 mmol), t-butyl piperazine-1-carboxylate (2.2 mmol), N,N-diisopropylethylamine (4.4 mmol) and acetonitrile (10 mL) was heated at reflux for 18 h, cooled to room temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate; this solution was washed with water, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using 10% ethyl acetate in hexanes as eluent to yield the title compounds as a yellow solid (23%). 1H NMR (400 MHz, CDCl3): δ 9.38 (br, 1H), 7.67 (d, 1 H), 7.31 (s, 1H), 7.21 (s, 2H), 6.13 (dd, 1H), 5.70 (d, 1H), 4.42 (d, 2H), 3.54 (m, 4H), 3.38 (m, 4H), 1.49 (s, 9H). MS (ESI) m/z: Calculated: 514.47; Observed: 515.6 (M+1).

reactant | N-(3,5-dichlorobenzyl)-5-fluoro-2-(methylsulfonyl)benzenamine | 2.1 mmol | ClC=1C=C(CNC2=C(C=CC(=C2)F)S(=O)(=O)C)C=C(C1)Cl | C14H12Cl2FNO2S
reactant | t-butyl piperazine-1-carboxylate | 2.2 mmol | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 4.4 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(3,5-dichlorobenzylamino)-4-(methylsulfonyl)phenyl)piperazine-1-carboxylate | 23% | ClC=1C=C(CNC=2C=C(C=CC2S(=O)(=O)C)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)Cl | C23H29Cl2N3O4S
